US08754226B2
To a solution of (3S)-1-(3,3-dimethylpiperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one (0.010 g, 0.026 mmol) in DMF (1 mL) was added 2,5-dichloropyrazine (0.0078 g, 0.052 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.018 mL, 0.10 mmol) and the reaction was stirred for 3 hours at 100° C. The reaction was cooled, poured into brine and extracted into EtOAc. The organic layer was washed with water and brine, dried over MgSO4, filtered and concentrated under vacuum. Reverse phase HPLC purification of the crude material gave (3S)-1-(1-(5-chloropyrazin-2-yl)-3,3-dimethylpiperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one (0.0023 g, 0.0046 mmol, 18% yield) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 1.02 (s, 3H), 1.03 (s, 3H), 1.81-1.91 (m 1H), 2.12-2.21 (m, 1H), 2.71-2.81 (m, 2H), 2.95-3.05 (m, 2H), 3.03 (m, 3H), 3.52 (dd, 2H), 3.97 (d, 1H), 4.15-4.23 (m, 2H), 4.47-4.51 (m, 1H), 5.12 (bs, 1H), 6.80 (t, 1H), 7.55 (d, 1H), 7.61 (d, 1H), 7.90 (s, 1H), 8.05 (s, 1H).

reactant | (3S)-1-(3,3-dimethylpiperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 0.026 mmol, 0.010 g | CC1(CNCCC1N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O)C | C18H26FN3O3S
reactant | 2,5-dichloropyrazine | 0.052 mmol, 0.0078 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.10 mmol, 0.018 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (3S)-1-(1-(5-chloropyrazin-2-yl)-3,3-dimethylpiperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 0.0046 mmol, 0.0023 g, 18% yield | ClC=1N=CC(=NC1)N1CC(C(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O)(C)C | C22H27ClFN5O3S
